US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-chloro-4-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl) phenyl]-4-methyl-1,3-oxazolidin-2-one (1.0 g, 3.19 mmol)/THF (40 mL) at 0° C., was added NaH (153 mg, 60 w/w % in mineral oil, 3.83 mmol, 1.2 eq.) in one portion. The resulting foaming mixture was stirred in an ice bath for 30 min, followed by addition of 2-chloro-4-fluorobenzyl chloride (572 mg, 3.19 mmol). The resulting mixture was stirred at 0° C. for 30 min then warmed to ambient overnight. The reaction failed to proceed at room temperature and it was warmed in a 60° C. oil bath for 20 h. An aliquot indicated that the reaction was over. It was quenched with aq. NH4Cl (50 mL). Volatiles were evaporated. The resulting mixture was extracted with EtOAc. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to a yellow oil. The oil was purified by SiO2 (Biotage 40+M cartridge, eluted by EtOAc/hexanes, gradient; 5% to 40%). The titled compound was obtained as a colorless glassy material. LC-MS: 456.12 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.77 (s, 2H), 7.46 (dd, J=8.7, 6.0 Hz, 1H), 7.17 (dd, J=8.4, 2.5 Hz, 1H), 7.03 (m, 1H), 5.68 (d, J=8.2 Hz, 1H), 4.83 (d, J=15.6, 1H), 4.36 (d, J=15.3 Hz, 1H), 4.06 (m, 1H), 0.79 (d, J=6.4 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl) phenyl]-4-methyl-1,3-oxazolidin-2-one | 3.19 mmol, 1.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | NaH | 3.83 mmol, 153 mg, 1.2 eq. | [H-].[Na+]
reactant | 2-chloro-4-fluorobenzyl chloride | 3.19 mmol, 572 mg | ClC1=C(CCl)C=CC(=C1)F | C7H5Cl2F
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-chloro-4-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=C(C=C1)F)Cl)C)(F)F | C19H13ClF7NO2
